Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amitriptyline
 
Attending: ___.
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
___ Line Placement ___

 
History of Present Illness:
___ y/o M w/ PMH of BPH, HTN, spinal stenosis, and severe COPD 
who presents after being at home this AM with his wife and home 
care taker stating that the pt suddenly appeared pale while 
sitting at the breakfast table and looked dazed. Would respond 
to questions w/ simple response, but denies pt having 
syncopized. No apparent neurologic deficits or bowel 
incontinence (has foley chronically for bladder). Episode lasted 
about ___ minutes. Pt cannot recollect events but reports 
coming back to normal while in the ambulance. While there, EMS 
reported his BP to be 70 over palp with improvement noted when 
he presented to our ED. Denies any trigger event with no 
f/c/s/n/v. He does report that the day prior to notice some 
penile irritation that is new. No back pain from his baseline.

In the ED, initial VS were 0 97.5 66 100/60 20 96% 3L.

Labs were notable for normal CBC, lactate, Cr 1.5, UA WBC >182, 
prot 600, RBC 25. Blood and urine cultures were sent.

Received IV cefepime.

CXR was notable for no acute process.

Admitted to medicine for further management. 

On arrival to the floor, patient reports no specific complaints 
and feels to baseline.

 
Past Medical History:
BPH
HTN
Carotid artery disease 
Severe COPD
Lumbar facet arthropathy
Spinal Stenosis
Mild cognitive impairment
Osteoporosis 
Neuropathy
Anemia
Stroke -> on med rec, but pt and wife unaware

 
Social History:
___
Family History:
Both of his parents died of heart disease.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS - 97.8 168/78 84 20 99/RA
General: Elderly male, lying in bed in NAD
HEENT: NC/AT
Neck: Supple
CV: RRR, no m/r/g
Lungs: CBAT
Abdomen: Soft, NT/ND, +BS, no HSM, no CVA tenderness
GU: Foley in place
Ext: No c/c/e
Neuro: PERRL, CNII-XII intact, ___ ___, sensation equal 
throughout
Skin: On the L posterior back is a large palm sized, soft mass 
that appears c/w possible lipoma, numerous dysplastic appearing 
nevi

DISCHARGE PHYSICAL EXAM:
========================
VS - 98.6 130-150s/70-90s (154/81) 70-100s (73) 16 97/RA
General: Elderly male, sitting up in bed in NAD
HEENT: NC/AT
Neck: Supple
CV: RRR, no m/r/g
Lungs: CBAT
Abdomen: Soft, NT/ND, +BS, no HSM, no CVA tenderness
GU: No foley
Ext: No c/c/e
Neuro: CNII-XII grossly intact
Skin: On the L posterior back is a large palm sized, soft mass 
that appears c/w possible lipoma, numerous dysplastic appearing 
nevi
 
Pertinent Results:
LABS:
=====
___ 06:00AM BLOOD WBC-5.5 RBC-4.68 Hgb-12.7* Hct-40.3 
MCV-86 MCH-27.1 MCHC-31.5 RDW-13.5 Plt ___
___ 06:25AM BLOOD WBC-6.2 RBC-4.81 Hgb-12.9* Hct-41.6 
MCV-87 MCH-26.8* MCHC-30.9* RDW-13.6 Plt ___
___ 06:00AM BLOOD WBC-7.9 RBC-4.67 Hgb-12.9* Hct-41.0 
MCV-88 MCH-27.5 MCHC-31.4 RDW-13.7 Plt ___
___ 11:00AM BLOOD WBC-10.0 RBC-4.73 Hgb-12.8* Hct-42.4 
MCV-90 MCH-27.0 MCHC-30.1*# RDW-13.5 Plt ___
___ 06:00AM BLOOD Glucose-85 UreaN-14 Creat-1.4* Na-142 
K-4.3 Cl-107 HCO3-24 AnGap-15
___ 06:25AM BLOOD Glucose-77 UreaN-12 Creat-1.0 Na-141 
K-4.0 Cl-107 HCO3-24 AnGap-14
___ 06:00AM BLOOD Glucose-82 UreaN-14 Creat-1.1 Na-141 
K-4.2 Cl-109* HCO3-21* AnGap-15
___ 11:00AM BLOOD Glucose-139* UreaN-16 Creat-1.5* Na-142 
K-4.3 Cl-107 HCO3-25 AnGap-14
___ 11:08AM BLOOD Lactate-1.0

IMAGING:
========
EKG (___)
Sinus rhythm. Compared to the previous tracing of ___ the 
rate is slower.  
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
75 220 86 398/424 21 15 11 
 
CXR (___):
IMPRESSION:  Low lung volumes with no acute cardiopulmonary 
process.

CXR (___):
IMPRESSION:  
Right PICC tip is in thecavoatrial junction. Cardiac size is 
normal.  The 
aorta is elongated The lungs are clear.  There is no 
pneumothorax or left 
pleural effusion.   Of note the right CP angle was not included 
in these exam. 

Renal US (___):
FINDINGS:  
The right kidney measures 9.4 cm. The left kidney measures 9.9 
cm. There is no hydronephrosis. No stone or suspicious solid 
mass is seen in either kidney.  A simple cyst is seen in the 
right kidney measuring 2.1 x 2.1 x 1.9 cm. A simple partially 
exophytic cyst is seen in the left kidney measuring 2.5 x 2.7 x 
2.5 cm. Normal cortical echogenicity and corticomedullary 
differentiation are seen bilaterally.  No perinephric fluid 
collection is identified. 
  
The bladder is moderately well seen and normal in appearance. 
  
IMPRESSION:  
No abscess and no hydronephrosis identified. Simple bilateral 
renal cysts are incidentally noted. 

 
Brief Hospital Course:
___ y/o M w/ PMH of BPH, HTN, spinal stenosis, and severe COPD 
who presents for AMS in setting of low BP.

ACTIVE ISSUES:
==============
# Pre-syncope
AMS described as period being "dazed" without neurologic deficit 
in context of a transiently low BP when assessed by EMS. 
Initially orthostatic on admission, improved s/p IVF. No reports 
of true syncope. No e/o to suggest stroke/TIA or seizures. 
Dehydration and low BPs likely driven by UTI, described below. 
Pt otherwise improved with no further symptoms and no events on 
telemetry.

# Complicated UTI w/ Pseudomonas
Grew cipro resistant pseudomonas in setting of foley 
catheterization pt has had since last admission. Previously 
treated with cipro for 1 week before present presentation. Also 
grew Enteroccous though low colony. Predisposed to infection 
given had chronic foley due to urinary obstruction since last 
discharge. Foley was removed with replacement held given pt 
passing voiding trial. Pt was otherwise without fevers, white 
count or CVA tenderness on admission. Renal US normal without 
abscess. Originally treated with cefepime for a 14d course 
(___) based on sensitivities but transitioned to Zosyn 
once enterococcus grew out that was ampicillin resistance to 
allow for administration of single IV antibiotic. Last dose of 
antibiotic for course to be ___, allowing for sufficient 
coverage for enterococcus. Recommend continued follow-up of UA 
and UCx upon completion of antibiotic therapy.

# ___ 0.35% on admission suggestive of pre-renal etiology due to 
UTI. Improved renal fxn to baseline after IVF. Renal US was 
normal.

# Urinary Obstruction
Since prior admission, plan to f/u w/ urology this week for 
further studies at ___. No evidence of re-obstruction after 
voiding trial was performed. Continued on tamulosin with plan 
for outpatient f/u with urology as planned.

# HTN
Elevated on admission with readings consistently >160, 
uptitrated amlodipine from 2.5mg to 5mg with continued 
optimization as an outpatient.

TRANSITIONAL ISSUES:
====================
- Continue IV Zosyn for 14 day course ___, stop ___ 
via PICC (changed from cefepime to zosyn to cover both 
Pseudomonas and Enteroccocus)
- Please check UA and Urine Culture after completion of 
antibiotics to ensure clearance of infection
- Please check Cr on ___ to ensure renal function still 
stable, may need dose adjustment of zosyn as needed
- Ensure follow-up with urology since had issues with urinary 
obstruction w/ f/u arranged at ___
- Needs continue optimization of blood pressure, just changed 
from 2.5mg to 5mg of amlodipine on ___ need further 
increase of medications
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob 
2. Cyanocobalamin 1000 mcg PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU BID 
4. Ipratropium Bromide MDI 2 PUFF IH QID 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 40 mg PO DAILY 
7. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
8. Pregabalin 100 mg PO TID 
9. Tiotropium Bromide 1 CAP IH DAILY 
10. Vitamin B Complex 1 CAP PO DAILY 
11. Vitamin D 1000 UNIT PO DAILY 
12. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
13. Alendronate Sodium 70 mg PO WEEKLY 
14. Fluoxetine 10 mg PO DAILY 
15. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation daily 
16. Docusate Sodium 100 mg PO BID 
17. Polyethylene Glycol 17 g PO DAILY 
18. Tamsulosin 0.4 mg PO HS 
19. Amlodipine 2.5 mg PO DAILY 
20. Senna 8.6 mg PO BID:PRN Constipation 
21. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob 
2. Alendronate Sodium 70 mg PO WEEKLY 
3. Amlodipine 5 mg PO DAILY 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Fluoxetine 10 mg PO DAILY 
7. Fluticasone Propionate NASAL 1 SPRY NU BID 
8. Multivitamins 1 TAB PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. Polyethylene Glycol 17 g PO DAILY 
11. Pregabalin 100 mg PO TID 
12. Senna 8.6 mg PO BID:PRN Constipation 
13. Tamsulosin 0.4 mg PO HS 
14. Tiotropium Bromide 1 CAP IH DAILY 
15. Vitamin B Complex 1 CAP PO DAILY 
16. Vitamin D 1000 UNIT PO DAILY 
17. Aspirin 81 mg PO DAILY 
18. Piperacillin-Tazobactam 4.5 g IV Q8H 
STOP ON ___ 
19. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
20. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
21. Ipratropium Bromide MDI 2 PUFF IH QID 
22. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
23. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
INHALATION DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Urinary Tract Infection
Acute Kidney Injury
Urinary Obstruction
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you were confused with 
dehydration and low blood pressure. This was likely caused by 
your urinary tract infection with a bacteria called pseudomonas 
that became resistant to the medication you were taking before. 
As a result, your antibiotic was changed and had a PICC line 
placed to get it intravenously. You will continue the 
antibiotics for a total of 14 days.

Please make sure you follow-up with your primary care doctor 
___ after leaving the hospital. He will make sure your labs 
are normal and, at the end of the antibiotics, make sure you 
cleared your infection.

You should also continue to follow-up with your urologist at 
___ to manage your urinary obstruction.

Take care.

- Your ___ Team
 
Followup Instructions:
___